US05635510
30.7 Synthesis of 4-(naphth-2-yl)-piperidine-4-carboxylic acid amide hydrochloride
Prepare by the method of example 20.10 using 1-tert-butoxycarbonyl-4-(naphth-2-yl)-piperidine-4-carboxylic acid amide (3 mmol) and HCl in dioxane (40 mmol, 4N) to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-(naphth-2-yl)-piperidine-4-carboxylic acid amide | 3 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)N)C1=CC2=CC=CC=C2C=C1 | C21H26N2O3
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N | O1CCOCC1 | C4H8O2
product | 4-(naphth-2-yl)-piperidine-4-carboxylic acid amide hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C1(CCNCC1)C(=O)N | InChI=1S/C16H18N2O.ClH/c17-15(19)16(7-9-18-10-8-16)14-6-5-12-3-1-2-4-13(12)11-14;/h1-6,11,18H,7-10H2,(H2,17,19);1H
